* File: AOI21.pex.netlist.pex
* Created: Sat Dec  6 11:39:21 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21_IN1 2 6 9 11 14
c13 11 0 0.00841944f
c14 9 0 0.00231143f
c15 6 0 0.0358507f
c16 2 0 0.0176149f
r17 11 18 5.24571
r18 11 17 6.64571
r19 9 11 89.3538
r20 9 14 0.0678571
r21 6 18 65.13
r22 2 17 27.3
.ends

.subckt PM_AOI21_IN2 2 6 10 12 14
c19 14 0 0.0051422f
c20 12 0 0.00393284f
c21 6 0 0.0249281f
c22 2 0 0.0123759f
r23 14 18 5.21157
r24 14 17 6.81745
r25 12 14 89.3538
r26 10 12 0.11963
r27 6 18 65.13
r28 2 17 27.3
.ends

.subckt PM_AOI21_VDD! 5 6 11 16
c17 18 0 0.00281319f
c18 16 0 0.0279065f
c19 11 0 0.0120691f
c20 5 0 0.017313f
r21 14 18 0.0861081
r22 14 16 0.593333
r23 10 18 0.124293
r24 10 11 0.651429
r25 5 18 0.0861081
r26 5 6 0.353333
.ends

.subckt PM_AOI21_NET13 2 4 7 8
c19 8 0 0.00330388f
c20 7 0 0.00719501f
c21 4 0 0.0141421f
c22 2 0 0.00936462f
r23 7 9 0.212696
r24 7 8 1.78308
r25 3 8 0.212696
r26 3 4 0.990714
r27 2 9 0.990714
.ends

.subckt PM_AOI21_IN3 2 6 10 14
c17 14 0 0.00900918f
c18 10 0 0.00271768f
c19 6 0 0.0363266f
c20 2 0 0.0165715f
r21 14 18 5.21211
r22 14 17 8.24544
r23 12 14 89.3538
r24 10 12 0.149286
r25 6 18 62.4
r26 2 17 36.66
.ends

.subckt PM_AOI21_GND! 6 7 8 11 13 16
c15 13 0 0.00906547f
c16 8 0 0.0345091f
c17 7 0 0.0251941f
r18 12 13 0.620667
r19 9 16 0.124435
r20 9 11 0.526667
r21 8 12 0.240061
r22 8 11 0.76
r23 7 16 0.115626
r24 6 7 0.73587
.ends

.subckt PM_AOI21_OUT 4 7 8 9 10 12 18 20
c20 20 0 0.00208271f
c21 18 0 0.015994f
c22 12 0 0.0132656f
c23 10 0 0.00269073f
c24 9 0 0.00275228f
c25 8 0 0.00259781f
c26 7 0 0.00544145f
c27 4 0 0.0071019f
r28 16 18 1.38846
r29 15 18 0.555385
r30 12 20 0.895714
r31 10 20 0.202958
r32 9 16 0.211984
r33 9 10 0.257059
r34 7 15 0.212317
r35 7 8 0.833077
r36 3 8 0.212317
r37 3 4 0.686923
.ends

