* File: AOI22.pex.netlist.pex
* Created: Sat Dec  6 11:40:26 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22_IN1 2 6 8 10 12 17 21 25 28 30 37
c41 37 0 0.00705327f
c42 30 0 0.0027258f
c43 25 0 0.00443403f
c44 21 0 0.00615778f
c45 17 0 0.00686192f
c46 12 0 0.0209489f
c47 10 0 0.00332566f
c48 8 0 0.00344499f
c49 6 0 0.00414498f
c50 2 0 0.0169669f
r51 32 37 2.12727
r52 32 34 2.36364
r53 30 32 89.3538
r54 28 30 0.076
r55 23 25 6.24
r56 19 21 6.63
r57 15 17 9.36
r58 11 25 0.458085
r59 11 12 51.48
r60 10 23 0.458085
r61 9 21 0.458085
r62 9 10 9.36
r63 8 19 0.458085
r64 7 17 0.458085
r65 7 8 9.36
r66 6 15 0.458085
r67 5 37 2.34442
r68 5 6 12.09
r69 2 34 28.47
.ends

.subckt PM_AOI22_IN2 2 6 7 8 10 18 23
c36 23 0 0.0061694f
c37 18 0 0.00252745f
c38 10 0 0.0307163f
c39 8 0 0.00277826f
c40 7 0 0.00941404f
c41 6 0 0.00385963f
c42 2 0 0.0119512f
r43 15 23 1.18182
r44 15 20 3.30909
r45 13 15 89.3538
r46 13 18 0.0876923
r47 9 10 87.75
r48 7 9 4.35808
r49 7 8 14.43
r50 6 8 4.35808
r51 5 23 2.34442
r52 5 6 11.31
r53 2 20 27.3
.ends

.subckt PM_AOI22_VDD! 5 6 10 13 15
c19 16 0 0.00277776f
c20 13 0 0.0270592f
c21 10 0 0.00928441f
c22 5 0 0.0253169f
r23 13 16 0.0861081
r24 13 15 0.166667
r25 9 16 0.124293
r26 9 10 0.855
r27 5 16 0.0861081
r28 5 6 0.353333
.ends

.subckt PM_AOI22_NET13 2 3 4 6 7 8
c17 8 0 0.00629224f
c18 7 0 0.00151316f
c19 6 0 0.00510113f
c20 3 0 0.00626509f
r21 6 8 0.212696
r22 6 7 1.78308
r23 3 7 0.212696
r24 3 4 0.366429
r25 2 8 0.366429
.ends

.subckt PM_AOI22_IN3 2 6 10 13 17 21 23
c33 23 0 0.00815277f
c34 21 0 0.00534505f
c35 17 0 0.00144906f
c36 13 0 0.00704804f
c37 10 0 0.00521438f
c38 6 0 0.0353521f
c39 2 0 0.012454f
r40 23 30 5.18354
r41 21 23 89.3538
r42 19 21 0.19
r43 15 17 0.102308
r44 13 25 4.3875
r45 11 13 89.3538
r46 11 15 0.146154
r47 10 19 0.142815
r48 9 15 0.00808061
r49 9 10 0.882143
r50 5 30 2.18247
r51 5 6 66.3
r52 1 25 2.22942
r53 1 2 27.3
.ends

.subckt PM_AOI22_IN4 2 6 9 12 13 15 21 24 25
c45 25 0 0.00780804f
c46 21 0 0.00600737f
c47 15 0 0.00457071f
c48 13 0 0.00468374f
c49 12 0 0.0141317f
c50 9 0 0.0130052f
c51 6 0 0.0173999f
c52 2 0 0.0290403f
r53 24 25 0.133704
r54 21 31 5.42878
r55 19 21 89.3538
r56 19 24 0.147778
r57 15 29 4.7687
r58 13 15 89.3538
r59 13 17 0.13641
r60 11 25 0.142815
r61 11 12 1.76429
r62 10 17 0.0968863
r63 9 12 0.212696
r64 9 10 3.50769
r65 6 31 27.3
r66 2 29 46.02
.ends

.subckt PM_AOI22_OUT 7 9 12 13 14 17 21 24
c42 24 0 0.00839581f
c43 21 0 0.0152503f
c44 17 0 0.00829224f
c45 14 0 0.0119186f
c46 13 0 0.00309819f
c47 12 0 0.00965904f
c48 9 0 0.0114805f
c49 7 0 0.0263693f
r50 24 26 0.41735
r51 20 21 1.08571
r52 16 17 0.686923
r53 15 24 0.130902
r54 14 20 0.212696
r55 14 15 3.99
r56 12 16 0.212317
r57 12 13 2.09
r58 9 26 0.665
r59 5 24 0.18039
r60 5 7 3.08385
r61 4 13 0.212317
r62 4 7 0.555385
.ends

.subckt PM_AOI22_GND! 6 7 10 13 15 18
c19 15 0 0.00990281f
c20 10 0 0.0444272f
c21 7 0 0.00967039f
c22 6 0 0.0104125f
r23 14 15 0.620667
r24 11 18 0.124435
r25 11 13 0.526667
r26 10 14 0.240061
r27 10 13 1.26667
r28 6 18 0.115626
r29 6 7 0.620667
.ends

