* File: AOI21_3D.pex.netlist.pex
* Created: Sat Dec  6 12:22:38 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21_3D_IN1 2 6 9 10 16 18 21 23 24
c22 24 0 1.34166e-19
c23 23 0 0.128002f
c24 18 0 0.0123301f
c25 16 0 0.00123437f
c26 10 0 0.002403f
c27 9 0 0.0155416f
c28 6 0 0.0295644f
c29 2 0 0.0176392f
r30 23 24 18.8685
r31 18 28 6.64571
r32 16 18 89.3538
r33 16 21 0.0678571
r34 15 24 0.192522
r35 15 21 0.149286
r36 11 13 89.3538
r37 10 23 0.212696
r38 10 11 0.230714
r39 9 13 9.1
r40 5 9 4.58872
r41 5 6 46.02
r42 2 28 27.3
.ends

.subckt PM_AOI21_3D_VDD! 5 6 11 14 16
c16 17 0 0.00281319f
c17 14 0 0.0283535f
c18 11 0 0.0120691f
c19 5 0 0.0170543f
r20 14 17 0.0861081
r21 14 16 0.166667
r22 10 17 0.124293
r23 10 11 0.651429
r24 5 17 0.0861081
r25 5 6 0.353333
.ends

.subckt PM_AOI21_3D_IN2 2 6 10 11 12 19 20 22 26
c31 26 0 0.00726568f
c32 22 0 0.00604503f
c33 20 0 0.00492584f
c34 12 0 0.00132717f
c35 11 0 0.00113949f
c36 10 0 0.0844104f
c37 6 0 0.0206218f
c38 2 0 0.0123759f
r39 22 29 6.81745
r40 20 22 89.3538
r41 19 20 0.11963
r42 16 19 0.0492593
r43 14 26 3.38
r44 12 14 89.3538
r45 11 12 0.095
r46 10 11 0.212696
r47 9 16 0.156557
r48 9 10 18.9123
r49 5 26 1.98872
r50 5 6 46.02
r51 2 29 27.3
.ends

.subckt PM_AOI21_3D_NET17 2 4 7 8
c20 8 0 0.00276036f
c21 7 0 0.00780139f
c22 4 0 0.0141421f
c23 2 0 0.00938244f
r24 7 9 0.212696
r25 7 8 1.78308
r26 3 8 0.212696
r27 3 4 0.990714
r28 2 9 0.990714
.ends

.subckt PM_AOI21_3D_IN3 2 6 10 14 24
c25 24 0 0.00804677f
c26 14 0 0.0114065f
c27 10 0 0.0851986f
c28 6 0 0.0305833f
c29 2 0 0.0165716f
r30 17 24 3.38
r31 15 17 89.3538
r32 14 20 8.10452
r33 12 14 89.3538
r34 12 15 19.4092
r35 10 12 0.0438462
r36 5 24 1.98872
r37 5 6 46.02
r38 2 20 36.66
.ends

.subckt PM_AOI21_3D_GND! 6 7 8 11 13 16
c12 13 0 0.00906547f
c13 8 0 0.0353028f
c14 7 0 0.0260714f
r15 12 13 0.620667
r16 9 16 0.124435
r17 9 11 0.526667
r18 8 12 0.240061
r19 8 11 0.76
r20 7 16 0.115626
r21 6 7 0.73587
.ends

.subckt PM_AOI21_3D_OUT 4 7 8 10 16 18
c18 18 0 0.0042509f
c19 16 0 0.143243f
c20 10 0 0.0145289f
c21 8 0 0.00334313f
c22 7 0 0.00553398f
c23 4 0 0.0071019f
r24 14 18 0.436296
r25 14 16 20.3446
r26 13 16 0.555385
r27 10 18 1.11185
r28 7 13 0.212317
r29 7 8 0.789231
r30 3 8 0.212317
r31 3 4 0.686923
.ends

