* File: AOI22_3D.pex.netlist.pex
* Created: Sat Dec  6 12:27:31 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22_3D_IN1 2 6 9 10 12 14 17 27
c35 27 0 0.011166f
c36 17 0 0.00167938f
c37 14 0 0.00635753f
c38 10 0 0.0874383f
c39 9 0 0.00838533f
c40 6 0 0.0261069f
c41 2 0 0.0169669f
r42 19 27 7.8
r43 17 19 89.3538
r44 15 17 0.108571
r45 14 21 2.36364
r46 12 14 89.3538
r47 10 15 0.0223169
r48 9 12 0.512005
r49 9 10 16.8693
r50 5 27 1.98872
r51 5 6 68.64
r52 2 21 28.47
.ends

.subckt PM_AOI22_3D_VDD! 5 6 10 13 15
c19 16 0 0.00277776f
c20 13 0 0.0270592f
c21 10 0 0.00928441f
c22 5 0 0.0254019f
r23 13 16 0.0861081
r24 13 15 0.166667
r25 9 16 0.124293
r26 9 10 0.855
r27 5 16 0.0861081
r28 5 6 0.353333
.ends

.subckt PM_AOI22_3D_IN2 2 6 12 14 16 19 21 25 28 31
c40 31 0 0.00542272f
c41 28 0 0.00492937f
c42 27 0 0.00112699f
c43 25 0 0.00570191f
c44 21 0 0.00241133f
c45 19 0 0.00682535f
c46 16 0 0.0810688f
c47 14 0 0.00384766f
c48 12 0 0.00140009f
c49 6 0 0.0243618f
c50 2 0 0.0119512f
r51 31 36 2.86
r52 29 31 89.3538
r53 28 29 0.323
r54 23 25 0.540769
r55 19 32 3.30909
r56 17 19 89.3538
r57 17 21 0.0146154
r58 16 28 0.101484
r59 16 27 17.0123
r60 14 27 0.192522
r61 13 25 0.00808061
r62 13 14 0.76
r63 10 23 0.0223169
r64 10 12 0.365385
r65 9 21 0.0223169
r66 9 12 0.0438462
r67 5 36 1.98872
r68 5 6 66.3
r69 2 32 27.3
.ends

.subckt PM_AOI22_3D_NET25 2 3 4 6 7 8
c16 8 0 0.00629224f
c17 7 0 0.00151316f
c18 6 0 0.00510113f
c19 3 0 0.00626509f
r20 6 8 0.212696
r21 6 7 1.78308
r22 3 7 0.212696
r23 3 4 0.366429
r24 2 8 0.366429
.ends

.subckt PM_AOI22_3D_IN3 2 6 12 14 16 20 22 26
c32 26 0 0.00650382f
c33 22 0 0.00126849f
c34 20 0 0.00860019f
c35 16 0 0.00661714f
c36 14 0 0.0792896f
c37 12 0 0.00221425f
c38 6 0 0.0360068f
c39 2 0 0.012454f
r40 24 26 0.593385
r41 20 28 4.12941
r42 18 20 89.3538
r43 18 22 0.181231
r44 16 34 4.7687
r45 14 16 89.3538
r46 13 26 0.0223169
r47 13 14 18.1669
r48 10 24 0.00267808
r49 10 12 0.157241
r50 9 22 0.00267808
r51 9 12 0.353793
r52 6 34 68.25
r53 1 28 2.45619
r54 1 2 27.3
.ends

.subckt PM_AOI22_3D_IN4 2 6 9 10 12 20 23 24 26
c33 26 0 0.00576437f
c34 24 0 0.00870739f
c35 20 0 0.00628242f
c36 12 0 0.136505f
c37 10 0 0.00538151f
c38 9 0 0.0144317f
c39 6 0 0.0173999f
c40 2 0 0.0288583f
r41 23 24 0.133704
r42 20 29 5.42878
r43 18 20 89.3538
r44 18 23 0.147778
r45 15 26 3.67391
r46 13 15 89.3538
r47 11 24 0.142815
r48 11 12 18.3621
r49 10 13 0.321985
r50 9 12 0.212696
r51 9 10 3.21538
r52 6 29 27.3
r53 1 26 1.67807
r54 1 2 45.24
.ends

.subckt PM_AOI22_3D_OUT 7 9 12 13 14 17 21 27
c39 27 0 0.00504351f
c40 21 0 0.0151992f
c41 17 0 0.00829224f
c42 14 0 0.0120705f
c43 13 0 0.00311766f
c44 12 0 0.0100934f
c45 9 0 0.0151216f
c46 7 0 0.153424f
r47 26 27 0.197037
r48 20 21 1.08571
r49 16 17 0.686923
r50 14 20 0.212696
r51 14 27 3.99
r52 12 16 0.212317
r53 12 13 2.09
r54 8 26 0.0153712
r55 8 9 1.07214
r56 5 26 0.281481
r57 5 7 20.9585
r58 4 13 0.212317
r59 4 7 0.555385
.ends

.subckt PM_AOI22_3D_GND! 6 7 10 13 15 18
c18 15 0 0.00990281f
c19 10 0 0.0441959f
c20 7 0 0.00967039f
c21 6 0 0.0104125f
r22 14 15 0.620667
r23 11 18 0.124435
r24 11 13 0.526667
r25 10 14 0.240061
r26 10 13 1.26667
r27 6 18 0.115626
r28 6 7 0.620667
.ends

