* File: NAND2.pex.netlist.pex
* Created: Fri Dec  5 23:30:14 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_IN1 2 6 9 10 12 14
c20 14 0 0.00237336f
c21 10 0 0.00176972f
c22 9 0 0.0134844f
c23 6 0 0.0231979f
c24 2 0 0.0192052f
r25 14 16 89.3538
r26 12 14 0.0542857
r27 9 16 9.1
r28 9 10 0.043368
r29 5 10 4.56151
r30 5 6 46.41
r31 1 10 4.56151
r32 1 2 31.59
.ends

.subckt PM_NAND2_GND! 5 6 11 13
c14 11 0 0.0261547f
c15 6 0 0.0164345f
c16 5 0 0.0103231f
r17 9 13 0.124435
r18 9 11 0.553333
r19 5 13 0.115626
r20 5 6 0.924667
.ends

.subckt PM_NAND2_VDD! 5 6 11 14 16
c15 17 0 0.00279481f
c16 14 0 0.0179312f
c17 11 0 0.0105361f
c18 5 0 0.0168901f
r19 14 17 0.0861081
r20 14 16 0.28
r21 10 17 0.124293
r22 10 11 0.977143
r23 5 17 0.0861081
r24 5 6 0.353333
.ends

.subckt PM_NAND2_IN2 2 6 10 12 16
c20 16 0 0.0139274f
c21 10 0 0.00176751f
c22 6 0 0.0231979f
c23 2 0 0.0180505f
r24 14 16 89.3538
r25 12 14 0.04
r26 9 16 7.54
r27 9 10 0.043368
r28 5 10 4.56151
r29 5 6 46.41
r30 1 10 4.56151
r31 1 2 31.59
.ends

.subckt PM_NAND2_OUT 5 8 9 11 12 13 14 16 17 20 23 24
c29 23 0 7.53695e-19
c30 20 0 0.0113405f
c31 19 0 0.00263909f
c32 16 0 0.00741856f
c33 14 0 0.00105448f
c34 13 0 0.00174319f
c35 12 0 0.00405739f
c36 11 0 0.00823949f
c37 9 0 0.00263909f
c38 8 0 0.00182199f
c39 5 0 0.0113195f
r40 19 24 0.0866539
r41 19 20 0.868571
r42 16 17 0.217143
r43 15 23 0.171069
r44 14 24 0.126042
r45 14 15 0.643077
r46 12 16 0.212696
r47 12 13 0.643077
r48 11 23 0.0335492
r49 10 13 0.212696
r50 10 11 1.33
r51 8 23 0.171069
r52 8 9 0.730769
r53 4 9 0.212696
r54 4 5 0.868571
.ends

