* File: NAND3.pex.netlist.pex
* Created: Fri Dec  5 23:34:30 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND3_IN1 2 6 9 10 12 14
c20 14 0 0.00236492f
c21 10 0 0.00176972f
c22 9 0 0.0134417f
c23 6 0 0.0234416f
c24 2 0 0.0257071f
r25 14 16 89.3538
r26 12 14 0.0542857
r27 9 16 9.1
r28 9 10 0.043368
r29 5 10 4.56151
r30 5 6 47.19
r31 1 10 4.56151
r32 1 2 40.95
.ends

.subckt PM_NAND3_GND! 5 6 9 11 12
c13 9 0 0.0362955f
c14 6 0 0.0198949f
c15 5 0 0.0105286f
r16 9 12 0.124435
r17 9 11 0.353333
r18 5 12 0.115626
r19 5 6 1.71
.ends

.subckt PM_NAND3_IN2 2 6 11 14
c19 14 0 0.00213902f
c20 11 0 0.00595865f
c21 6 0 0.0174606f
c22 2 0 0.0161961f
r23 11 16 5.2
r24 9 11 89.3538
r25 9 14 0.0492593
r26 5 16 1.98872
r27 5 6 51.48
r28 1 16 1.98872
r29 1 2 36.66
.ends

.subckt PM_NAND3_IN3 2 6 9 11 14
c14 11 0 0.00575664f
c15 9 0 0.00214682f
c16 6 0 0.0246235f
c17 2 0 0.0227271f
r18 11 18 4.74714
r19 11 17 4.74714
r20 9 11 89.3538
r21 9 14 0.0814286
r22 6 18 51.48
r23 2 17 36.66
.ends

.subckt PM_NAND3_VDD! 6 7 12 15 18 20
c17 23 0 0.00279481f
c18 20 0 0.0123093f
c19 15 0 0.0249103f
c20 12 0 0.00946848f
c21 6 0 0.0170159f
r22 19 20 0.977143
r23 16 23 0.0861081
r24 16 18 0.566667
r25 15 19 0.246163
r26 15 18 0.26
r27 11 23 0.124293
r28 11 12 0.977143
r29 6 23 0.0861081
r30 6 7 0.353333
.ends

.subckt PM_NAND3_OUT 5 8 9 11 12 13 14 17 22 26 28
c37 28 0 0.0146299f
c38 27 0 9.78869e-19
c39 26 0 7.03452e-19
c40 22 0 0.00669481f
c41 17 0 0.00852073f
c42 14 0 0.0018083f
c43 13 0 0.00180915f
c44 12 0 0.0055039f
c45 11 0 0.0129254f
c46 9 0 0.00270671f
c47 8 0 0.00163022f
c48 5 0 0.0113195f
r49 20 27 0.171069
r50 20 22 0.95
r51 16 27 0.0335492
r52 16 17 0.868571
r53 15 26 0.171069
r54 14 27 0.171069
r55 14 15 0.701538
r56 12 28 0.111139
r57 12 13 1.79769
r58 11 26 0.0335492
r59 10 13 0.212696
r60 10 11 2.00857
r61 8 26 0.171069
r62 8 9 0.672308
r63 4 9 0.212696
r64 4 5 0.868571
.ends

