* File: NAND4.pex.netlist.pex
* Created: Fri Dec  5 23:37:12 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND4_IN1 2 6 9 10 12 14
c20 14 0 0.00225113f
c21 10 0 0.00176972f
c22 9 0 0.0134129f
c23 6 0 0.0249588f
c24 2 0 0.032209f
r25 14 16 89.3538
r26 12 14 0.0542857
r27 9 16 9.1
r28 9 10 0.043368
r29 5 10 4.56151
r30 5 6 51.48
r31 1 10 4.56151
r32 1 2 50.31
.ends

.subckt PM_NAND4_GND! 5 6 9 11 12
c14 9 0 0.0474963f
c15 6 0 0.0263316f
c16 5 0 0.0107091f
r17 9 12 0.124435
r18 9 11 0.353333
r19 5 12 0.115626
r20 5 6 2.318
.ends

.subckt PM_NAND4_IN2 2 6 11 14
c18 14 0 0.0021758f
c19 11 0 0.0061556f
c20 6 0 0.0174606f
c21 2 0 0.0215249f
r22 11 16 5.2
r23 9 11 89.3538
r24 9 14 0.0492593
r25 5 16 1.98872
r26 5 6 51.48
r27 1 16 1.98872
r28 1 2 50.31
.ends

.subckt PM_NAND4_IN3 2 6 9 11 14
c18 11 0 0.00493563f
c19 9 0 0.00154142f
c20 6 0 0.0175496f
c21 2 0 0.0216139f
r22 11 18 4.77878
r23 11 17 4.77878
r24 9 11 89.3538
r25 9 14 0.0814286
r26 6 18 51.48
r27 2 17 50.31
.ends

.subckt PM_NAND4_VDD! 6 7 12 15 18 20 26
c21 26 0 0.0200055f
c22 25 0 0.00279481f
c23 20 0 0.00942795f
c24 15 0 0.0150748f
c25 12 0 0.00946848f
c26 6 0 0.0171341f
r27 19 26 0.124293
r28 19 20 0.963571
r29 16 25 0.0861081
r30 16 18 0.566667
r31 15 26 0.0861081
r32 15 18 0.26
r33 11 25 0.124293
r34 11 12 0.977143
r35 6 25 0.0861081
r36 6 7 0.353333
.ends

.subckt PM_NAND4_IN4 2 6 9 11 14
c15 11 0 0.0068724f
c16 9 0 0.00217316f
c17 6 0 0.0246223f
c18 2 0 0.0307179f
r19 11 18 4.77878
r20 11 17 4.77878
r21 9 11 89.3538
r22 9 14 0.0814286
r23 6 18 51.48
r24 2 17 50.31
.ends

.subckt PM_NAND4_OUT 6 9 10 12 13 14 15 18 21 24 27 28 31 36
c46 36 0 0.0167877f
c47 35 0 0.00100086f
c48 34 0 8.9847e-19
c49 31 0 0.0113537f
c50 27 0 0.00676782f
c51 21 0 0.00867829f
c52 18 0 0.00773618f
c53 15 0 0.00142346f
c54 14 0 0.00194885f
c55 13 0 0.0100156f
c56 12 0 0.0139897f
c57 10 0 0.00281048f
c58 9 0 0.00197807f
c59 6 0 0.0113195f
r60 30 31 0.868571
r61 27 36 0.142616
r62 27 28 0.101333
r63 22 35 0.171069
r64 22 24 0.555385
r65 21 30 0.212696
r66 21 24 1.25692
r67 17 35 0.0335492
r68 17 18 0.868571
r69 16 34 0.171069
r70 15 35 0.171069
r71 15 16 0.643077
r72 13 36 0.0580149
r73 13 14 2.85
r74 12 34 0.0335492
r75 11 14 0.212696
r76 11 12 2.15786
r77 9 34 0.171069
r78 9 10 0.730769
r79 5 10 0.212696
r80 5 6 0.868571
.ends

